US05117057
Preparation of N'-t-butyl-N-benzenesulfonyl-N'-benzoylhydrazine
N'-t-butyl-N'-benzoylhydrazine (0.4 g) was stirred in pyridine (3 ml) at room temperature. Benzenesulfonyl chloride (0.5 g) was added slowly, dropwise and stirred for 2 hours, diluted with diethyl ether (20 ml) and washed several times with a 10% HCl solution and then water. The organic layer was dried over magnesium sulfate, filtered and the solvent rotavapped off to afford a white solid in good yield.

reactant | N'-t-butyl-N'-benzoylhydrazine | 0.4 g | C(C)(C)(C)N(N)C(C1=CC=CC=C1)=O | C11H16N2O
reactant | Benzenesulfonyl chloride | 0.5 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | N'-t-butyl-N-benzenesulfonyl-N'-benzoylhydrazine | C(C)(C)(C)N(NS(=O)(=O)C1=CC=CC=C1)C(C1=CC=CC=C1)=O | C17H20N2O3S
